US06645997B2
Step B: Ethyl 7-(3-benzyloxypropoxy)-2-ethylchromane-2-carboxylate
The title compound was prepared from ethyl 7-(3-benzyloxypropoxy)-chromane-2-carboxylate following the procedure described in Example 2, Step A employing iodoethane instead of iodopropane.

reactant | ethyl 7-(3-benzyloxypropoxy)-chromane-2-carboxylate | C(C1=CC=CC=C1)OCCCOC1=CC=C2CCC(OC2=C1)C(=O)OCC | C22H26O5
reactant | iodoethane | ICC | C2H5I
product | Ethyl 7-(3-benzyloxypropoxy)-2-ethylchromane-2-carboxylate | C(C1=CC=CC=C1)OCCCOC1=CC=C2CCC(OC2=C1)(C(=O)OCC)CC | C24H30O5
